US08685958B2
(3-(4-(2-oxa-5-azaspiro[3.4]octan-5-ylmethyl)-2-methoxyphenoxy)azetidin-1-yl)(5-(4-(difluoromethyl)phenyl)-1,3,4-oxadiazol-2-yl)methanone
2-Oxa-5-azaspiro[3.4]octane TFA salt (0.1.1 g, ca. 70%, 0.34 mmol) and 4-(1-(5-(4-(difluoromethyl)phenyl)-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)-3-methoxybenzaldehyde (0.146 g, 0.34 mmol) were mixed in dichloromethane (2 ml). Triethylamine (0.1 ml, 0.72 mmol) was added, followed by sodium triacetoxyhydroborate (0.144 g, 0.68 mmol). The mixture was stirred at ambient temperature overnight (16 h). LC-MS showed some remaining starting material and an additional amount of sodium triacetoxyhydroborate (0.113 g) was added. Stirring continued for 6 h. The reaction mixture was then diluted with dichloromethane (10 ml) and shaken with NaHCO3 (sat. 3 ml). The two phases were separated by the use of a phase separator. Evaporation of the organic phase afforded a residue, which was purified by preparative reverse-phase HPLC at pH 10 to give 0.112 g (62%) of the desired product as a solid.

reactant | 2-Oxa-5-azaspiro[3.4]octane TFA salt | 0.34 mmol | OC(=O)C(F)(F)F.C1OCC12NCCC2
reactant | 4-(1-(5-(4-(difluoromethyl)phenyl)-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)-3-methoxybenzaldehyde | 0.34 mmol, 0.146 g | FC(C1=CC=C(C=C1)C1=NN=C(O1)C(=O)N1CC(C1)OC1=C(C=C(C=O)C=C1)OC)F | C21H17F2N3O5
reactant | Triethylamine | 0.72 mmol, 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | sodium | [Na] | Na
reactant | NaHCO3 | 3 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (3-(4-(2-oxa-5-azaspiro[3.4]octan-5-ylmethyl)-2-methoxyphenoxy)azetidin-1-yl)(5-(4-(difluoromethyl)phenyl)-1,3,4-oxadiazol-2-yl)methanone | 0.112 g, 62% | C1OCC12N(CCC2)CC2=CC(=C(OC1CN(C1)C(=O)C=1OC(=NN1)C1=CC=C(C=C1)C(F)F)C=C2)OC | C27H28F2N4O5
